US06803463B2
(ii) 2-(4-Ethoxy-phenyl)-3-(4-methanesulfonyl-phenyl)-pyrazolo[1,5-b]pyridazine
The residue from Example 6(i), 2-(4-ethoxyphenyl)-3-(4-methanesulfonyl-phenyl)-3,3a-dihydro-pyrazolo[1,5-b]pyridazine, was redissolved in DCM (5 mL) and palladium on carbon (10% wt, 0.25 g) was added. The mixture was heated under reflux for 18 hours, whereupon analysis of the mixture by mass spectrometry showed the presence of a main component, MH+ 394, corresponding to the title compound. The reaction mixture was purified directly by silica gel chromatography (ethyl acetatelcyclohexane 2:1) to give the title compound as a white solid (0.181 g, 59%). MH+ 394

reactant | 2-(4-ethoxyphenyl)-3-(4-methanesulfonyl-phenyl)-3,3a-dihydro-pyrazolo[1,5-b]pyridazine | C(C)OC1=CC=C(C=C1)C1=NN2N=CC=CC2C1C1=CC=C(C=C1)S(=O)(=O)C | C21H21N3O3S
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | palladium on carbon | [Pd] | Pd
product | 2-(4-Ethoxy-phenyl)-3-(4-methanesulfonyl-phenyl)-pyrazolo[1,5-b]pyridazine | C(C)OC1=CC=C(C=C1)C1=NN2N=CC=CC2=C1C1=CC=C(C=C1)S(=O)(=O)C | C21H19N3O3S
